US04104182
0.14 mole of butyl bromide and 0.14 mole of N-hydroxy dodecenylsuccinimide are dissolved in 100 milliliters of dimethylformamide. 50 milliliters of triethylamine are added and the mixture is stirred overnight at room temperature. The solvent is then removed under vacuum and the reaction product is water washed until salt free and then dried. A yield of 85% of N-butoxy dodecenylsuccinimide is recovered.

reactant | butyl bromide | 0.14 mole | C(CCC)Br | C4H9Br
reactant | N-hydroxy dodecenylsuccinimide | 0.14 mole | OCCCCCCCCCCC=CN1C(CCC1=O)=O | C16H27NO3
reactant | triethylamine | 50 milliliters | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 100 milliliters | CN(C=O)C | C3H7NO
product | N-butoxy dodecenylsuccinimide | yield of 85% | C(CCC)OCCCCCCCCCCC=CN1C(CCC1=O)=O | C20H35NO3
